US06660742B2
Synthesis of the compounds of general class III begins with the reaction of 2-amino4-chloro-5-nitrophenol at 0-50° C., preferably at room temperature, with benzyl bromide in the presence of potassium carbonate and tetra-N-butylammonium iodide in DMF to give 2-benzyloxy-5-chloro-4-nitroaniline in 56% yield. Subsequent reaction of 2-benzyloxy-5-chloro-4-nitroaniline (25-80° C.), preferably refluxing, with benzoyl chloride in the presence of triethylamine provided N-(2-benzyloxy-5-chloro-4-nitrophenyl)benzamide in 85% yield. Reaction of N-(2-benzyloxy-5-chloro4-nitrophenyl)benzamide with sodium dimethyl malonate anion, generated from reaction of dimethyl malonate with sodium hydride in DMSO, in a DMSO solution at 80-150° C., preferably at 110° C., overnight gave dimethyl 2-(5-benzamido-4-benzyloxy-2-nitro)phenylmalonate in 36% yield. When dimethyl 2-(5-bybenzamido-4-benzyloxy-2-nitro)phenylmalonate was treated with NaOH in ethanol at 25-100° C., preferably refluxing, followed by acidification with HCl and mild heating at 25-100° C., preferably refluxing, provided the desired compound 2-(5-amino-4-benzyloxy-2-nitro)phenylacetic acid in 93% yield. Treatment of 2-(5-amino-4-benzyloxy-2-nitro)phenylacetic acid at 0-50° C., preferably at 5° C. then gradual warming to room temperature, with borane in THF selectively reduced the carboxylic acid group to an alcohol, 2-(5-amino-4-benzyloxy-2-nitro)phenylethanol in 52% yield.

reactant | 2-benzyloxy-5-chloro-4-nitroaniline | C(C1=CC=CC=C1)OC1=C(N)C=C(C(=C1)[N+](=O)[O-])Cl | C13H11ClN2O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-benzyloxy-5-chloro-4-nitrophenyl)benzamide | 85% yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)NC(C1=CC=CC=C1)=O | C20H15ClN2O4
